US06706725B1
i) (E)-7-{5-[2-(3,4-bis-Hydroxymethyl-phenyl)ethyl]-2-thienyl}-3-ethylnon-6-en-3-ol
In a manner similar to that of Example 6(l), by reaction of 710 mg (1.1 mmol) of (E)-7-{5-[2-(3,4-bis(tert-butyldimethylsilanyloxymethyl)phenyl)ethyl]-2-thienyl}-3-ethylnon-6-en-3-ol with 3.3 mL (3.3 mmol) of 1.0 M tetrabutylammonium fluoride solution, the desired product is obtained in the form of a white powder (m.p.=77° C.; m=380 mg; Y=83%).

reactant | (E)-7-{5-[2-(3,4-bis(tert-butyldimethylsilanyloxymethyl)phenyl)ethyl]-2-thienyl}-3-ethylnon-6-en-3-ol | 1.1 mmol, 710 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1CO[Si](C)(C)C(C)(C)C)CCC1=CC=C(S1)/C(=C/CCC(CC)(O)CC)/CC | C37H64O3SSi2
reactant | tetrabutylammonium fluoride | 3.3 mmol, 1.0 M, 3.3 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (E)-7-{5-[2-(3,4-bis-Hydroxymethyl-phenyl)ethyl]-2-thienyl}-3-ethylnon-6-en-3-ol | OCC=1C=C(C=CC1CO)CCC1=CC=C(S1)/C(=C/CCC(CC)(O)CC)/CC | C25H36O3S
